US05294618
Step 3: trans-1,2,3,4,4a,5,6,10b-Octahydrobenz[f]isoquinoline
A solution of 0.218 g (1.08 mmol) of trans-1,2,3,4,4a,5,6,10b-octahydro-3-methyl-benz[f]isoquinoline in 3 ml of chloroform was added over 25 min to a solution of 0.140 g (1.32 mmol) of cyanogen bromide in 1 ml of chloroform under nitrogen whilst stirring magnetically. After completion of the addition, the reaction was heated to reflux for 75 min, then allowed to cool. The solvent was evaporated in vacuo, then 5 ml of 2M hydrogen chloride solution was added and the reaction was heated to reflux for 6 h, whilst stirring magnetically. After allowing to cool, the reaction mixture was made alkaline with 2M sodium hydroxide solution and extracted with ether (3×30 ml). The combined ether extracts were dried (K2CO3) and evaporated in vacuo to leave 0.186 g (92%) of the title product as a whitish solid. NMR δ(CDCl3) 1.35-1.56 (3H, m), 1.74-1.82 (1H, m), 2.35-2.50 (3H, m), 2.78-2.92 (3H, m), 3.11 (1H, m), 3.27 (1H, m), 7.06-7.17 (3H, m), 7.24 (1H, d).

reactant | trans-1,2,3,4,4a,5,6,10b-octahydro-3-methyl-benz[f]isoquinoline | 1.08 mmol, 0.218 g | CN1C[C@H]2CCC3=C([C@@H]2CC1)C=CC=C3 | C14H19N
reactant | cyanogen bromide | 1.32 mmol, 0.140 g | N#CBr | CBrN
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | trans-1,2,3,4,4a,5,6,10b-Octahydrobenz[f]isoquinoline | 0.186 g, 92% | C1CNC[C@H]2CCC3=C([C@H]12)C=CC=C3 | C13H17N
